US06417212B1
B. 2-Methyl-2-(4-{2-[5-methyl-2-(3-naphthalen-1-yl-phenyl)oxazol-4-yl]ethoxy}phenoxy)propionic acid
A stirred solution of 2-methyl-2-(4-{2-[5-methyl-2-(3-naphthalen-1-ylphenyl)oxazol-4-yl]ethoxy}phenoxy)propionic acid ethyl ester (0.711 mmol) in ethanol (8.9 mL) was treated with NaOH(aq) (0.854 mL of a 5M solution), and heated at reflux for 1 h. The hot solution was acidified to pH 1 with 1M HCl (6 mL). The mixture was cooled to ambient temperature, then further cooled to 0° C. before filtering the product. Following washing with H2O, the product was dried under vacuum at 50° C. to yield a white, crystalline solid: Rf=0.22 in 6:4 ethyl acetate:hexanes; 1H NMR (400 MHz, CDCl3) δ8.08 (s, 1H), 8.03 (d, J=8.8 Hz, 1H), 7.90-7.82 (m, 3H), 7.53-7.39 (m, 6H), 6.86-6.75 (m, 4H), 4.16 (t, J=6.4 Hz, 2H), 2.95 (t, J=6.4 Hz, 2H), 2.35 (s, 3H), 1.47 (s, 6H); MS (EI) 508.1 (M+H)+.

reactant | 2-methyl-2-(4-{2-[5-methyl-2-(3-naphthalen-1-ylphenyl)oxazol-4-yl]ethoxy}phenoxy)propionic acid ethyl ester | 0.711 mmol | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC(=CC=C1)C1=CC=CC2=CC=CC=C12)C)=O | C34H33NO5
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1M, 6 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 8.9 mL | C(C)O | C2H6O
product | 2-Methyl-2-(4-{2-[5-methyl-2-(3-naphthalen-1-yl-phenyl)oxazol-4-yl]ethoxy}phenoxy)propionic acid | CC(C(=O)O)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC(=CC=C1)C1=CC=CC2=CC=CC=C12 | C32H29NO5
